US03984407
a. N,N-Dimethylinden-3-propylamine
A mixture of 232 g. (2.0 moles) of indene and the free base prepared from 264 g. (1.6 moles) of 3-dimethylaminopropylchloride-hydrochloride is added in portions over 1 hour to a rapidly stirred mixture of 300 g. (7.5 moles) of sodium hydroxide, 300 g. of water and 300 ml. of 40% Triton B in methanol. The initial temperature is 50° and the rate of addition controlled to keep the temperature between 55°-60° . The green mixture is stirred at 60° for 4 hours, cooled, diluted with 1500 ml. of water and extracted with ether. The ether extract is in turn extracted with a solution of 180 ml. of conc. hydrochloric acid in 600 ml. of water and the aqueous phase separated, basified with 100 g. of sodium hydroxide and extracted with ether. Solvent removal gives 182 g. of brown oil which is distilled to give 102 g. of oil, b.p. 88°- 93° at 0.05 mm. Redistillation gives 19.6 g.; b.p. 87.5°-89.5° at 0.05 mm. and 71.1 g.; b.p. 89.5°-90° at 0.05 mm.

reactant | indene | 2.0 moles | C1C=CC2=CC=CC=C12 | C9H8
reactant | 3-dimethylaminopropylchloride-hydrochloride | 1.6 moles | Cl.CN(CCCCl)C
reactant | sodium hydroxide | 7.5 moles | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | N,N-Dimethylinden-3-propylamine | CN(CCCC1=CCC2=CC=CC=C12)C | C14H19N
